US09382254B2
Intermediate 4: 5-acetylamino-4-carbamoyl-thiophene-2-sulfonylchloride
Neat ClSO3H (29 mL, 440 mmol) is cooled to 0° C., and 2-acetylamino-thiophene-3-carboxylic acid amide (8.1 g, 44 mmol) is added in portions over a period of 15 min. The mixture is then stirred at 50° C. for 3 h, cooled to room temperature, and then poured slowly to ice cold water. The resulting suspension is washed twice with EtOAc, the combined organic fractions are dried over MgSO4, filtered and evaporated to give the desired product, which is used as such.

reactant | ClSO3H | 440 mmol, 29 mL | ClS(=O)(=O)O | ClHO3S
reactant | 2-acetylamino-thiophene-3-carboxylic acid amide | 44 mmol, 8.1 g | C(C)(=O)NC=1SC=CC1C(=O)N | C7H8N2O2S
product | 5-acetylamino-4-carbamoyl-thiophene-2-sulfonylchloride | C(C)(=O)NC1=C(C=C(S1)S(=O)(=O)Cl)C(N)=O | C7H7ClN2O4S2
